US20010056123A1
Step 6: Synthesis of N-[2-(3-amidinophenoxy)ethyl]-4-(3,4-dimethoxybenzoyl)benzamide:
0.5 g (1.16 mmol) of N-[2-(3-cyanophenoxy)ethyl]-4-(3,4-dimethoxybenzoyl)benzamide was dissolved in 10 ml of N,N-dimethylformamide (dehydrated). 0.21 g (2.32 mmol) of sodium hydrogensulfide dihydrate and 0.24 g (1.16 mmol) of magnesium chloride hexahydrate were added to the obtained solution under cooling with ice, and they were stirred at room temperature for 2.5 hours. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the solvent was evaporated, and the obtained crude product was dissolved in 20 ml of acetone. 0.56 ml (9.0 mmol) of methyl iodide was added to the solution, and they were refluxed for 3 hours. The solvent was evaporated, and the obtained crude product was washed with ethyl acetate. After the filtration, the obtained crystals were dissolved in 10 ml of methanol. 155 mg (2.0 mmol) of ammonium acetate was added to the obtained solution, and they were stirred for 3 hours. The solvent was evaporated, and the residue was treated in the same manner as that in step 7 in Example 51 to obtain the title compound.

reactant | N-[2-(3-cyanophenoxy)ethyl]-4-(3,4-dimethoxybenzoyl)benzamide | 1.16 mmol, 0.5 g | C(#N)C=1C=C(OCCNC(C2=CC=C(C=C2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC1 | C25H22N2O5
reactant | sodium hydrogensulfide dihydrate | 2.32 mmol, 0.21 g | O.O.S.[Na]
reactant | magnesium chloride hexahydrate | 1.16 mmol, 0.24 g | O.O.O.O.O.O.[Cl-].[Mg+2].[Cl-]
reactant | methyl iodide | 9.0 mmol, 0.56 ml | CI | CH3I
reactant | ammonium acetate | 2.0 mmol, 155 mg | C(C)(=O)[O-].[NH4+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-[2-(3-amidinophenoxy)ethyl]-4-(3,4-dimethoxybenzoyl)benzamide | C(N)(=N)C=1C=C(OCCNC(C2=CC=C(C=C2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC1 | C25H25N3O5
